US05571813
Preparation of Diethyl 2-(4-Nitrophenyl)malonate
12.0 g (74.9 mmol) diethyl malonate were dissolved in 50 ml DMSO and 8.6 g (76.6 mmol) potassium t-butoxide were added. A solution of 7.9 g (50.1 mmol) 1-chloro-4-nitrobenzene in 50 ml DMSO was added via a dropping funnel. The mixture was heated at 100° C. for 4 h and poured on to crushed ice. It was extracted twice with ethyl acetate, the combined organic layers washed with brine, dried over sodium sulfate, and evaporated in vacuo to afford a brown oil, which contained the title compound in an amount of about 75% and which was used in the reaction of the next step.

reactant | diethyl malonate | 74.9 mmol, 12.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium t-butoxide | 76.6 mmol, 8.6 g | CC(C)([O-])C.[K+]
reactant | 1-chloro-4-nitrobenzene | 50.1 mmol, 7.9 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | Diethyl 2-(4-Nitrophenyl)malonate | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C13H15NO6
